US05112837
A mixture of 6-cyano-2methyl-4-quinolone (9.2 g, Chem. Abs., 51, 11347h; known therein as 6-cyano-4-hydroxyquinaldine), Raney nickel (10 g) and 75% formic acid (150 ml ) was heated at reflux for 3 hours. The mixture was cooled, neutralised with a saturated aqueous solution of sodium bicarbonate and filtered. The solid residue was washed with warm methanol (3×50 ml). The combined filtrates were extracted with ethyl acetate (3×50 ml). The combined extracts were washed with water (100 ml), dried over sodium sulphate and evaporated to give 6-formyl-2-methyl-4-quinolone as a fawn coloured solid (9.3 g).

reactant | 6-cyano-2methyl-4-quinolone | C(#N)C=1C=C2C(CC(=NC2=CC1)C)=O | C11H8N2O
reactant | 6-cyano-4-hydroxyquinaldine | C(#N)C=1C=C2C(=CC(=NC2=CC1)C)O | C11H8N2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | Raney nickel | 10 g | [Ni] | Ni
solvent | formic acid | 150 ml | C(=O)O | CH2O2
product | 6-formyl-2-methyl-4-quinolone | 9.3 g | C(=O)C=1C=C2C(CC(=NC2=CC1)C)=O | C11H9NO2
